US08017637B2
0.96 g (2.9 mmol) of 2-(1,3-benzodioxol-5-yl)-6-methoxy-7-nitro-1,3-benzothiazole is suspended in 100 ml of methanol. 96 mg (10%) of palladium on carbon is added to the reaction mixture which is maintained under stirring under 2.5 bars of hydrogen for 18 hours. The catalyst is filtered out, then the solvents are evaporated off under reduced pressure. 0.45 g (yield=52%) of 2-(1,3-benzodioxol-5-yl)-6-methoxy-1,3-benzothiazol-7-amine is obtained and used in the following stage without other purification.

reactant | 2-(1,3-benzodioxol-5-yl)-6-methoxy-7-nitro-1,3-benzothiazole | 2.9 mmol, 0.96 g | O1COC2=C1C=CC(=C2)C=2SC1=C(N2)C=CC(=C1[N+](=O)[O-])OC | C15H10N2O5S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 96 mg | [Pd] | Pd
product | 2-(1,3-benzodioxol-5-yl)-6-methoxy-1,3-benzothiazol-7-amine | 0.45 g, yield=52% | O1COC2=C1C=CC(=C2)C=2SC1=C(N2)C=CC(=C1N)OC | C15H12N2O3S
